US04752648
(preparation of monocyclohexyldichlorophosphine)
319 g (1.05 mol) of a 38 wgt % monocyclohexylphosphine solution in toluene was added dropwise at 25° C. to a suspension of 436 g PCl5 (2.1 mol) in 1 liter toluene. After the strongly exothermal reaction was complete, the reaction mixture was filtered using a reverse frit. 5 g orange colored solid matter remained behind. The clear solution (31P-NMR; δ P: 195 ppm, C6H11PCl2, 95 mol %) was distilled under vacuum.

reactant | monocyclohexylphosphine | C1(CCCCC1)P | C6H13P
reactant | PCl5 | 2.1 mol, 436 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | monocyclohexyldichlorophosphine | C1(CCCCC1)P(Cl)Cl | C6H11Cl2P
